US07148229B2
To a solution of N-[6-amino-1-cyclopropylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-{4-[(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl)-methyl-amino]-phenyl}-acetamide (0.119 mmol) in methanol (2 mL) was added 10% w/v aqueous sodium hydroxide solution (1 mL) and the mixture heated to 50° C. for 1.5 hrs. The methanol was removed in vacuo and the aqueous residue acidified to pH=4 with 1.0M aqueous hydrochloric acid. The aqueous suspension was extracted with chloroform, the combined chloroform extracts washed with brine, dried with magnesium sulfate, filtered and concentrated in vacuo. the residue was triturated with acetonitrile to give 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide as a colorless solid (50%); (ES)+-HRMS m/e calculated for C29H29ClFN7O4S (M+Na)+ 648.1566, found 648.1566.

reactant | N-[6-amino-1-cyclopropylmethyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl]-2-{4-[(5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl)-methyl-amino]-phenyl}-acetamide | 0.119 mmol | NC1=C(C(N(C(N1CC1CC1)=O)CC1=C(C=CC=C1)F)=O)NC(CC1=CC=C(C=C1)N(C)S(=O)(=O)C=1C(=NN(C1Cl)C)C)=O | C29H31ClFN7O5S
reactant | sodium hydroxide | 1 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide | 50% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(S(=O)(=O)C=1C(=NN(C1Cl)C)C)C)=O)CC1=C(C=CC=C1)F)=O | C29H29ClFN7O4S
